US07829580B2
(E)-1-[2-Cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[1-(ethoxycarbonylmethyl)-1H-imidazol-2-yl]methylidene}-4-sulfanylpiperidine hydrochloride (Exemplification Compound No. 2-801)
Hydrogen chloride was passed through a solution of (E)-4-(acetylsulfanyl)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[1-(ethoxycarbonylmethyl)-1H-imidazol-2-yl]methylidene}piperidine hydrochloride (169.4 mg) in ethanol (4 ml) at 0° C. and the sealed mixture was stirred at room temperature for 6.5 hours. The mixture was concentrated under reduced pressure and the residue was purified by preparative HPLC (YMC-Pack ODS-A; YMC, eluent: acetonitrile/0.026 N aqueous trifluoroacetic acid solution, 25/75, v/v). The thus obtained trifluoroacetic acid salt of the title compound was neutralized with an aqueous sodium hydrogen carbonate solution, and the liberated free base was extracted twice with dichloromethane. The extract was dried over anhydrous sodium sulfate and solvents were removed under reduced pressure to afford the free base of the title compound (67.7 mg, yield: 47%) as a colourless oil. The oil thus obtained was treated with a 4N hydrogen chloride dioxane solution (120 μl) in acetonitrile (3 ml). The solvent and excess hydrogen chloride were removed by evaporation under reduced pressure to afford the title compound (88.9 mg) as a pale yellow amorphous solid.

reactant | Hydrogen chloride | Cl | ClH
reactant | (E)-4-(acetylsulfanyl)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[1-(ethoxycarbonylmethyl)-1H-imidazol-2-yl]methylidene}piperidine hydrochloride | 169.4 mg | Cl.C(C)(=O)SC1/C(/CN(CC1)C(C(=O)C1CC1)C1=C(C=CC=C1)F)=C/C=1N(C=CN1)CC(=O)OCC
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | (E)-1-[2-Cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[1-(ethoxycarbonylmethyl)-1H-imidazol-2-yl]methylidene}-4-sulfanylpiperidine hydrochloride | 67.7 mg, yield: 47% | Cl.C1(CC1)C(C(C1=C(C=CC=C1)F)N1C\C(\C(CC1)S)=C/C=1N(C=CN1)CC(=O)OCC)=O | InChI=1S/C24H28FN3O3S.ClH/c1-2-31-22(29)15-27-12-10-26-21(27)13-17-14-28(11-9-20(17)32)23(24(30)16-7-8-16)18-5-3-4-6-19(18)25;/h3-6,10,12-13,16,20,23,32H,2,7-9,11,14-15H2,1H3;1H/b17-13+;
